US05155108
6-Chloroimidazo[1,2-b]pyridazine (7.68 g) was added to 150 ml of carbon tetrachloride, to which 7.0 g of N-chlorossuccinimide were added and refluxed for 2 hours. After cooling, the precipitated crystals were filtered off. The filtrate was washed in turn with 1N-sodium hydroxide aqueous solution, 1N-hydrochloric acid and water, dried over anhydrous magnesium sulfate and distilled to remove the solvent. The residue was washed with diethyl ether to obtain 7.13 g of 3.6-dichloroimidazo[1,2-b]pyridazine.

reactant | 6-Chloroimidazo[1,2-b]pyridazine | 7.68 g | ClC=1C=CC=2N(N1)C=CN2 | C6H4ClN3
reactant | carbon tetrachloride | 150 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3.6-dichloroimidazo[1,2-b]pyridazine | 7.13 g | ClC1=CN=C2N1N=C(C=C2)Cl | C6H3Cl2N3
